US07534805B2
30.2) 4-(bromoacetyl)-N-(4-fluorophenyl)benzamide
4-acetyl-N-(4-fluorophenyl)benzamide (1.5 g, 0.00583 mol) is dissolved in 100 ml of methanol. Pyridinium tribromide resin is added (4 g of resin to 2 mmol of Br3 per gram, 0.0081 mol) followed by heating for 4 hours at 40° C. The reaction medium is filtered on frit, rinsed with methanol and evaporated to dryness. A pale yellow-coloured powder is obtained.

reactant | 4-acetyl-N-(4-fluorophenyl)benzamide | 0.00583 mol, 1.5 g | C(C)(=O)C1=CC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C15H12FNO2
reactant | Pyridinium tribromide | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methanol | 100 ml | CO | CH4O
product | 4-(bromoacetyl)-N-(4-fluorophenyl)benzamide | BrCC(=O)C1=CC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C15H11BrFNO2
